US07132539B2
Preparation of 2-{4-[2-(2-tert-butoxycarbonylamino-2-methyl-propionylamino)-3-(4-fluorophenyl)propionyl]-3-cyclopropylmethyl-2-oxo-piperazin-1-yl}-3-naphthalen-2-yl-propionic acid methylester (26):
To a solution of 2-{4-[2-amino-3-(4-fluorophenyl)propionyl]-3-cyclopropylmethyl-2-oxo-piperazin-1-yl}-3-naphthalen-2-yl-propionic acid methylester, 25, (37 mg, 0.068 mmol) in DMF (1 mL) are added 2-tert-butoxycarbonylamino-2-methyl-propionic acid (202 mg, 0.079 mmol), 1-hydroxybenzotriazole (20 mg, 0.148 mmol), N-methylmorpholine (41 mg, 0.41 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (16 mg, 0.083 mmol) consecutively. The reaction mixture is stirred for 3 hours, quenched with aqueous NH4Cl and extracted several times with ethyl acetate. The combined extracts are dried over Na2SO4, filtered and concentrated in vacuo to a residue which is purified over silica gel (CH2Cl2/CH3OH, 13:1) to afford the desired product.

reactant | 2-{4-[2-amino-3-(4-fluorophenyl)propionyl]-3-cyclopropylmethyl-2-oxo-piperazin-1-yl}-3-naphthalen-2-yl-propionic acid methylester | COC(C(CC1=CC2=CC=CC=C2C=C1)N1C(C(N(CC1)C(C(CC1=CC=C(C=C1)F)N)=O)CC1CC1)=O)=O | C31H34FN3O4
reactant | 2-tert-butoxycarbonylamino-2-methyl-propionic acid | 0.079 mmol, 202 mg | C(C)(C)(C)OC(=O)NC(C(=O)O)(C)C | C9H17NO4
reactant | 1-hydroxybenzotriazole | 0.148 mmol, 20 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methylmorpholine | 0.41 mmol, 41 mg | CN1CCOCC1 | C5H11NO
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 0.083 mmol, 16 mg | CN(CCCN=C=NCC)C | C8H17N3
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-{4-[2-(2-tert-butoxycarbonylamino-2-methyl-propionylamino)-3-(4-fluorophenyl)propionyl]-3-cyclopropylmethyl-2-oxo-piperazin-1-yl}-3-naphthalen-2-yl-propionic acid methylester | COC(C(CC1=CC2=CC=CC=C2C=C1)N1C(C(N(CC1)C(C(CC1=CC=C(C=C1)F)NC(C(C)(C)NC(=O)OC(C)(C)C)=O)=O)CC1CC1)=O)=O | C40H49FN4O7
